US06689806B1
2-Carboxy-3,5-dimethyl-4-(2-methoxycarbonylethyl)pyrrole (1.3 g) was ground with 0.5 g of anhydrous sodium acetate and then heated at 100° C. for 3 days. The mixture was dissolved in water, extract with ethyl acetate and chromatographed on a column of silica gel in ethyl acetate:hexane 1:3 to give 0.4 g (38% yield) of 2,4-dimethyl-3-(2-methoxycarbonylethyl)pyrrole as a thick pale yellow oil.

reactant | 2-Carboxy-3,5-dimethyl-4-(2-methoxycarbonylethyl)pyrrole | 1.3 g | C(=O)(O)C=1NC(=C(C1C)CCC(=O)OC)C | C11H15NO4
reactant | sodium acetate | 0.5 g | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 2,4-dimethyl-3-(2-methoxycarbonylethyl)pyrrole | 0.4 g, 38% yield | CC=1NC=C(C1CCC(=O)OC)C | C10H15NO2
